US06632909B2
1.81 g (5.40 mmol) of methyl (triphenylphosphoranylidene)acrylate are added, at room temperature, to a solution of 1.0 g (5.15 mmol) of 3,4-diethoxybenzaldehyde and 10 ml of toluene. The reaction is then allowed to proceed for 1 hour at room temperature, the reaction suspension is clarified by filtration over a silica gel bed and the filtrate is evaporated down. Chromatography of the residue over silica gel using toluene/ethyl acetate gives methyl 3(E)-(3,4-diethoxyphenyl)acrylate.

reactant | methyl (triphenylphosphoranylidene)acrylate | 5.40 mmol, 1.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=C=CC(=O)OC | C22H19O2P
reactant | 3,4-diethoxybenzaldehyde | 5.15 mmol, 1.0 g | C(C)OC=1C=C(C=O)C=CC1OCC | C11H14O3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3(E)-(3,4-diethoxyphenyl)acrylate | C(C)OC=1C=C(C=CC1OCC)/C=C/C(=O)OC | C14H18O4
